Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
bright red blood per rectum
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: ___ otherwise healthy, s/p banding for hemorrhoids 2 weeks
ago by Dr. ___ now presents w/ sudden onset BRBPR. He
reports at around 9AM this morning he was working at the lab and
felt warmth in the perineal region, then noticed blood soaking
through his jeans. He has since had ___ episodes of passing
bloody mucous, and small clots from his rectum and is currently
continuing to do so in ED (x8 times since AM). Of note, he has
had 1 day of bloody bowel movement 7 days after his procedure 
but
that soon resolved. There is no change in his bowel movements or
diet. He was scanned in the ED and was noted to have active
extravasation in his rectum concerning for arterial bleed. He is
otherwise feeling well. Patient's Hct is 41.3 but had been
tachycardic to low 100s and received 1L NS bolus in ED with
response.

 
Past Medical History:
Past Medical History: ADHD, pilonidal cyst, migraines  
 Past Surgical History: hemorrhoid banding, pilonidal cyst 
removal 

 
Physical Exam:
General: doing well, tolerating a regular diet, no pain, 
voiding, no blood per rectum
VSS
Neuro: A&OX3
Cardio/pulm: no chest pain, no shortness of breath
Abd: flat, soft, nontender
___: no lower extremity edema
 
Pertinent Results:
___ 06:43AM BLOOD WBC-8.4 RBC-3.61* Hgb-10.8* Hct-31.7* 
MCV-88 MCH-29.9 MCHC-34.1 RDW-12.2 RDWSD-39.7 Plt ___
___ 05:13PM BLOOD WBC-9.0 RBC-4.14* Hgb-12.6* Hct-36.8* 
MCV-89 MCH-30.4 MCHC-34.2 RDW-12.2 RDWSD-39.7 Plt ___
___ 12:35PM BLOOD WBC-7.0 RBC-4.66 Hgb-13.8 Hct-41.3 MCV-89 
MCH-29.6 MCHC-33.4 RDW-12.2 RDWSD-39.5 Plt ___
___ 05:13PM BLOOD Neuts-63.5 ___ Monos-7.2 Eos-0.2* 
Baso-0.2 Im ___ AbsNeut-5.72 AbsLymp-2.59 AbsMono-0.65 
AbsEos-0.02* AbsBaso-0.02
___ 12:35PM BLOOD Neuts-59.1 ___ Monos-7.4 Eos-0.4* 
Baso-0.4 Im ___ AbsNeut-4.16 AbsLymp-2.28 AbsMono-0.52 
AbsEos-0.03* AbsBaso-0.03
___ 12:35PM BLOOD ___ PTT-32.8 ___
 
Brief Hospital Course:
Mr ___ was admitted to ___ with bright red blood after 
having bright red blood per rectum. He had a recent hemorrhoid 
banding. CTA abdomen and pelvis showed blood pooling in the area 
of the prior procedure. On ___ an exam under anesthesia was 
preformed and Dr. ___ not see any obvious source of 
bleeding please see note detail. It was not obvious that the 
blood was from the site of the banding however, there was no 
other course of the bleeding. He did not have any additional 
bleeding while in the hospital. He tolerated a regular diet 
without issue. He will watch for signs of bleeding at home and 
seek care if it is needed. 
 
Medications on Admission:
none
 
Discharge Medications:
1.  Psyllium Powder 1 PKT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bleeding s/p Hemorrhoid banding

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with bleeding after a banding procedure of a 
hemorrhoid. This has resolved. You may return home. Please do 
not use any suppositories in your rectum or anything else that 
would disturb the healing of this area. Please continue to eat a 
regular diet however, avoid extreme roughage like kale or 
___ sprouts. Please conintue to take a scoop of Metamucil 
powder daily and this can be bought at the drug store.

Please call our office with any of the following symtpoms:
If you have any of the following symptoms please call the office 
for advice ___:  
fever greater than 101.5  
increasing abdominal distension  
increasing abdominal pain  
nausea/vomiting  
inability to tolerate food or liquids  
prolonged loose stool  
extended constipation  
inability to urinate  

 
Followup Instructions:
___